US06509328B1
{3-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-2′,3′-difluoro-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-2′,3′-difluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G49) (160 mg, 0.5 mmol) and 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile (Example J4) (115 mg, 0.5 mmol) according to the general procedure K. Obtained as a white solid (53 mg).

reactant | (3-amino-2′,3′-difluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | 0.5 mmol, 160 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C(=CC=C1)F)F)N)=O | C17H18F2N2O2
reactant | 3-(2,2-dimethyl-6-oxo-6H-[1,3]dioxin-4-yl)-benzonitrile | 0.5 mmol, 115 mg | CC1(OC(C=C(O1)C=1C=C(C#N)C=CC1)=O)C | C13H11NO3
product | {3-[3-(3-Cyano-phenyl)-3-oxo-propionylamino]-2′,3′-difluoro-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester | 53 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C(=CC=C1)F)F)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C27H23F2N3O4
